US07026352B1
(2Z,8E,12E,14E)-6,21-di(1-Ethoxyethoxy)-7-hydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-2,8,12,14-tetraen-11-olide
Lithium bis(trimethylsilyl)amide (1.0 M tetrahydrofuran solution, 50 μL, 50 μmol) was added dropwise to a solution of (8E,12E,14E)-3,6,21-tri(1-ethoxyethoxy)-7-hydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide (10.8 mg, 15.2 μmol) in tetrahydrofuran (2 mL) at −40° C. under nitrogen atmosphere, followed by stirring at the same temperature for 20 min. Then, a solution of nicotinoyl chloride hydrochloride (5.7 mg, 30.4 μmol) in tetrahydrofuran-triethylamine (tetrahydrofuran: 0.5 mL and triethyamine: 1 drop) was added dropwise thereinto, followed by stirring at 0° C. for 30 min. Ethyl Acetate and water were added to the reaction solution, and the mixture was extracted with ethyl acetate. The resulting organic layer was dried over anhydrous magnesium sulfate, filtered and then evaporated. The resulting residue was purified by silica gel column chromatography (Kanto silica gel 60N, 40 to 50 μm; ethyl acetate-hexane=1:4) to obtain the title compound (6.3 mg, 67%) as a colorless oil.

reactant | Lithium bis(trimethylsilyl)amide | 50 μmol, 1.0 M, 50 μL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | (8E,12E,14E)-3,6,21-tri(1-ethoxyethoxy)-7-hydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 15.2 μmol, 10.8 mg | C(C)OC(C)OC1CC(=O)OC(C(/C=C/C(C(CC1)(C)OC(C)OCC)O)C)\C(=C\C=C\C(CC1C(C(C(CC)OC(C)OCC)C)O1)C)\C | C40H70O10
reactant | nicotinoyl chloride hydrochloride | 30.4 μmol, 5.7 mg | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | Ethyl Acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
catalyst | tetrahydrofuran-triethylamine | 0.5 mL | O1C(C(C(C1)CCN)CCN)CCN | C10H23N3O
solvent | water | O | H2O
product | (2Z,8E,12E,14E)-6,21-di(1-Ethoxyethoxy)-7-hydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-2,8,12,14-tetraen-11-olide | 6.3 mg, 67% | C(C)OC(C)OC1(CC\C=C/C(=O)OC(C(/C=C/C1O)C)\C(=C\C=C\C(CC1C(C(C(CC)OC(C)OCC)C)O1)C)\C)C | C36H60O8
